US04558155
3-[2-[(1-Methylethyl)amino]ethoxy]benzonitrile
Following the procedure of Preparation 46, 3-cyanophenol, potassium carbonate and excess 1,2-dibromoethane are reacted and the product thereof is reacted with isopropylamine to give the title compound.

reactant | 3-cyanophenol | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 3-[2-[(1-Methylethyl)amino]ethoxy]benzonitrile | CC(C)NCCOC=1C=C(C#N)C=CC1 | C12H16N2O
